US06586617B1
Synthesis of 4′-Chloro-4-cyano-N-ethyl-2′-nitrobenzenesulfonanilide (Compound No. 356)
To a suspension of sodium hydride (60%, 0.10 g (2.50 mmol)) in tetrahydrofuran (THF)(3.0 ml), 4-chloro-N-ethyl-2-nitroaniline (0.40 g (1.99 mmol)) was added with stirring at room temperature. To the mixture, after stirring for 30 minutes at room temperature, 4-cyanobenzenesulfonyl chloride (0.50 g (2.48 mmol)) was added and the resulting mixture was stirred at room temperature for 3 hours. The reaction mixture was poured into water and the resulting mixture was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography with ethyl acetate-hexane (1:2) as eluent, to give 0.47 g (64%) of the title compound as pale yellow crystals.

reactant | sodium hydride | 2.50 mmol, 0.10 g | [H-].[Na+]
reactant | 4-chloro-N-ethyl-2-nitroaniline | 1.99 mmol, 0.40 g | ClC1=CC(=C(NCC)C=C1)[N+](=O)[O-] | C8H9ClN2O2
reactant | 4-cyanobenzenesulfonyl chloride | 2.48 mmol, 0.50 g | C(#N)C1=CC=C(C=C1)S(=O)(=O)Cl | C7H4ClNO2S
reactant | water | O | H2O
solvent | tetrahydrofuran | 3.0 ml | O1CCCC1 | C4H8O
product | 4′-Chloro-4-cyano-N-ethyl-2′-nitrobenzenesulfonanilide | 0.47 g, 64% | ClC1=CC(=C(N(S(=O)(=O)C2=CC=C(C=C2)C#N)CC)C=C1)[N+](=O)[O-] | C15H12ClN3O4S
